US04360581
step 1 5-Hexadecylsulfonylamino-2-phenyl-indole
20.8 g of 5-amino-2-phenylindole are dissolved in 200 ml of pyridine, and 32.45 g of hexadecylsulfonyl chloride are added. After stirring for 2 hours at room temperature, a precipitate is obtained by the addition of water. The precipitate is suction filtered and washed with water. It is then stirred into methanol in the cold, suction filtered and recrystallized from ethanol with the addition of a saturated aqueous sodium dithionite solution. The precipitate is suction filtered, washed with water and a little methanol and dried. 47.4 g of the above mentioned compound are obtained.

reactant | 5-amino-2-phenylindole | 20.8 g | NC=1C=C2C=C(NC2=CC1)C1=CC=CC=C1 | C14H12N2
reactant | hexadecylsulfonyl chloride | 32.45 g | C(CCCCCCCCCCCCCCC)S(=O)(=O)Cl | C16H33ClO2S
reactant | water | O | H2O
solvent | pyridine | 200 ml | N1=CC=CC=C1 | C5H5N
product | 5-Hexadecylsulfonylamino-2-phenyl-indole | C(CCCCCCCCCCCCCCC)S(=O)(=O)NC=1C=C2C=C(NC2=CC1)C1=CC=CC=C1 | C30H44N2O2S
